US07320994B2
{2-[1-(3,5-bistrifluoromethylbenzyl)-5-pyridin-4-yl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chlorophenyl)-methanone
Combine 4-[3-(3,5-bistrifluoromethylbenzyl)-5-tributylstannanyl-3H-[1,2,3]triazol-4-yl]-pyridine (489 g, 740 mmol) and toluene (1 L), add (2-bromopyridin-3-yl)-(2-chlorophenyl)-methanone (240 g, 810 mmol) in toluene (500 mL). Next, add tris(dibenzylideneacetone)dipalladium (16.95 g, 18.5 mmol) and toluene (300 mL). Add tri-2-furylphosphine (17.35 g, 74 mmol) in toluene (200 mL) and heat the reaction mixture to reflux (113° C.). Upon completion of the reaction, remove the solvent by rotary evaporation and purify the crude product by flash column chromatography (dichloromethane/ethyl acetate gradient). Treat the material with activated charcoal in ethyl acetate, wash with 5% aqueous trithiocyanuric acid trisodium salt solution, and recrystallize (ethyl acetate/hexane) to give the title compound. MS(IS) 588 (M+1). TLC (3% MeOH/CH2Cl2) Rf=0.17. 1H NMR (400 MHz, CDCl3): 5.46 (s, 2H); 7.19 (m, 5H); 7.36 (dd, 1H, J=4.9, 7.8); 7.45 (s, 2H); 7.59 (m, 1H); 7.83 (s, 1H); 7.93 (dd, 1H, J=1.5, 7.8); 8.56 (dd, 1H, J=1.5, 4.9); 8.70 (d, 2H, J=5.9).

reactant | 4-[3-(3,5-bistrifluoromethylbenzyl)-5-tributylstannanyl-3H-[1,2,3]triazol-4-yl]-pyridine | 740 mmol, 489 g | FC(C=1C=C(CN2N=NC(=C2C2=CC=NC=C2)[Sn](CCCC)(CCCC)CCCC)C=C(C1)C(F)(F)F)(F)F
reactant | (2-bromopyridin-3-yl)-(2-chlorophenyl)-methanone | 810 mmol, 240 g | BrC1=NC=CC=C1C(=O)C1=C(C=CC=C1)Cl | C12H7BrClNO
reactant | tri-2-furylphosphine | 74 mmol, 17.35 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 18.5 mmol, 16.95 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | {2-[1-(3,5-bistrifluoromethylbenzyl)-5-pyridin-4-yl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chlorophenyl)-methanone | FC(C=1C=C(CN2N=NC(=C2C2=CC=NC=C2)C2=NC=CC=C2C(=O)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C28H16ClF6N5O
